US08471005B2
Combined 4-Ethyl-2-(4-nitro-phenyl)-morpholine (3.00 g, 0.0127 mol) with Methanol (300 mL, 6 mol) and add Ammonium formate (5.6 g, 0.089 mol) then 10% Pd/C, 50% wet (0.88 g, 0.00041 mol). Stir under N2 overnight. Filtered through Celite and concentrated. Partitioned between aq. Na2CO3 and EtOAc, the organics were dried (MgSO4), filtered. To give 4-(4-Ethyl-morpholin-2-yl)-phenylamine as yellowish oil which solidified upon standing (2.45 grams). 1H-NMR (CDCl3) δ 7.17 (d, J=8.4 Hz, 2H), 6.68-6.65 (m, 2H), 4.47 (dd, J=10.4, 2.3 Hz, 1H), 4.05-4.01 (m, 1H), 3.90-3.84 (m, 1H), 3.84 (dt, J=11.6, 2.4 Hz, 1H), 3.66 (broad s, 2H), 2.94-2.90 (m, 1H), 2.84-2.81 (m, 1H), 2.46 (q, J=7.2, 2H), 2.2 (dt, J=8.1, 11.5 Hz, 1H), 2.05 (t, J=11.0 Hz, 1H), 1.12 (t, J=7.2 Hz, 1H); LC/MS (ESI+): 207 (M+H).

reactant | 4-Ethyl-2-(4-nitro-phenyl)-morpholine | 0.0127 mol, 3.00 g | C(C)N1CC(OCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O3
reactant | Methanol | 6 mol, 300 mL | CO | CH4O
reactant | Ammonium formate | 0.089 mol, 5.6 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-Ethyl-morpholin-2-yl)-phenylamine | C(C)N1CC(OCC1)C1=CC=C(C=C1)N | C12H18N2O
